US07268152B2
3-(2,3-Dihydrobenzofur-7-yl)-3-methylbutanoic acid (800 mg) in CH2Cl2 (10 mL) was treated with SOCl2 (0.315 mL) at 0° C. After 30 minutes, N,O-dimethylhydroxylamine hydrochloride (421 mg) in pyridine (1.5 mL) was added to the green mixture at 0° C. After another 30 minutes, 15 mL of 2 M HCl was added. The organic phase was separated and the aqueous layer was extracted with three 20 mL portions of CH2Cl2. The combined organic phases were dried over magnesium sulfate. The solvent was removed to yield 950 mg (99%) of 3-(2,3-dihydrobenzofur-7-yl)-3-methylbutanoic acid N,O-dimethylhydroxylamide as a yellowish oil.

reactant | 3-(2,3-Dihydrobenzofur-7-yl)-3-methylbutanoic acid | 800 mg | O1CCC2=C1C(=CC=C2)C(CC(=O)O)(C)C | C13H16O3
reactant | SOCl2 | 0.315 mL | O=S(Cl)Cl | Cl2OS
reactant | N,O-dimethylhydroxylamine hydrochloride | 421 mg | Cl.CNOC
reactant | HCl | 2 M, 15 mL | Cl | ClH
solvent | CH2Cl2 | 10 mL | C(Cl)Cl | CH2Cl2
solvent | pyridine | 1.5 mL | N1=CC=CC=C1 | C5H5N
product | 3-(2,3-dihydrobenzofur-7-yl)-3-methylbutanoic acid N,O-dimethylhydroxylamide | 950 mg, 99% | CN(C(CC(C)(C)C1=CC=CC=2CCOC21)=O)OC | C15H21NO3
